### PR TITLE
[Merged by Bors] - feat(Algebra/LinearRecurrence): the characteristic polynomial is monic

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/LinearRecurrence.lean [hunk 1]
```diff
@@ -193,6 +194,20 @@ variable {R : Type*} [CommRing R] (E : LinearRecurrence R)
...
   Polynomial.monomial E.order 1 - ∑ i : Fin E.order, Polynomial.monomial i (E.coeffs i)
 
+@[simp]
+theorem charPoly_degree_eq_order [Nontrivial R] : (charPoly E).degree = E.order := by
+  rw [charPoly, degree_sub_eq_left_of_degree_lt]
+    <;> rw [degree_monomial E.order one_ne_zero]
+  simp_rw [← C_mul_X_pow_eq_monomial]
+  exact degree_sum_fin_lt E.coeffs
+
+theorem charPoly_monic [Nontrivial R] : charPoly E |>.Monic := by
```
Comment (b-mehta) [inline Mathlib/Algebra/LinearRecurrence.lean]: I think this theorem is true without the assumption on R, because of [Polynomial.monic_of_subsingleton](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Operations.html#Polynomial.monic_of_subsingleton). And perhaps the previous result is also true for a silly reason?

Comment (SnirBroshi) [reply Mathlib/Algebra/LinearRecurrence.lean]: Good catch! I don't think the previous theorem is true because [`Polynomial.degree_of_subsingleton`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Operations.html#Polynomial.degree_of_subsingleton) reduces the LHS to `⊥` and the RHS is of type `ℕ` so they can't be equal.
